US05571506
Step 5: Preparation of Methyl 5-Acetoxy-2-tert-butyldimethylsilyloxymethyl-4-methoxyhydrocinnamate
To a solution of methyl 5-acetoxy-2-formyl-4-methoxyhydrocinnamate (3.31 g) and imidazole (2.42 g) in methylene chloride (25 ml) is added a solution of tert-butylchlorodimethylsilane (2.73 g) in methylene chloride (25 ml). The mixture is stirred at room temperature for about 60 minutes, diluted with ether and water, and the organic layer washed with water, brine, dried over magnesium sulfate, filtered and concentrated in vacuo to give the desired product.

reactant | methyl 5-acetoxy-2-formyl-4-methoxyhydrocinnamate | 3.31 g | C(C)(=O)OC=1C(=CC(=C(CCC(=O)OC)C1)C=O)OC | C14H16O6
reactant | imidazole | 2.42 g | N1C=NC=C1 | C3H4N2
reactant | tert-butylchlorodimethylsilane | 2.73 g | C(C)(C)(C)[Si](C)(C)Cl | C6H15ClSi
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
solvent | ether | CCOCC | C4H10O
solvent | water | O | H2O
product | Methyl 5-Acetoxy-2-tert-butyldimethylsilyloxymethyl-4-methoxyhydrocinnamate | C(C)(=O)OC=1C(=CC(=C(CCC(=O)OC)C1)CO[Si](C)(C)C(C)(C)C)OC | C20H32O6Si
